US04064122
To a suspension of 4.9 g of the dipotassium salt of DL-α-hydroxy-4-carboxyphenylacetic acid (mp 201° ~ 203° C) in 40 ml of dimethylsulfoxide were added 6.2 g p-methoxybenzylchloride and stirred overnight at ambient temperature. 50 ml of ice-water were added to the reaction mixture, adjusted to pH 7.5 and extracted several times with ethyl acetate. The combined ethyl acetate layers were washed with water, dried over anhydrous magnesium sulfate and evaporated in vacuo. The oily residue was dissolved in 60 ml of 50% acetone. To the solution was added a phenolphthalein reagent and then dropwise a 2N-sodium hydroxide solution at 40° ~ 45° C with stirring. The reaction was continued until the red color was maintained for 5 minutes. Then acetone was removed under weakly reduced pressure. The aqueous layer was washed several times with ethyl ether, and then adjusted to pH 2.5 with a 20% hydrochloric acid solution after the addition of ethyl acetate. The aqueous layer was extracted several times with ethyl acetate. The combined organic layers were washed several times with a small amount of an aqueous sodium chloride saturated solution, dried over anhydrous magnesium sulfate. The solvent was removed in vacuo to give an oily residue. The residue was dissolved in benzene and left overnight in an ice-box, yielding crystals of DL-α-hydroxy-4-(p-methoxybenzyloxycarbonyl) phenylacetic acid of 7.4 g (78.5%).

reactant | α-hydroxy-4-carboxyphenylacetic acid | OC(C(=O)O)C1=CC=C(C=C1)C(=O)O | C9H8O5
reactant | p-methoxybenzylchloride | 6.2 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α-hydroxy-4-(p-methoxybenzyloxycarbonyl) phenylacetic acid | OC(C(=O)O)C1=CC=C(C=C1)C(=O)OCC1=CC=C(C=C1)OC | C17H16O6
